US04067726
20.6 g (0.1 mol) of 3-amino-phenylacetic acid sec.-butylamide were dissolved in 100 ml of pyridine. 10.75 g (0.1 mol) of dimethylcarbamic acid chloride were added thereto. The mixture was stirred for a further 2 hours at room temperature and 2 hours at 50° to 60° C. The residue which remained after distilling off the pyridine under reduced pressure was stirred with very dilute hydrochloric acid, filtered off and then recrystallized from butyl acetate. 17 g (61.5% of theory) of 3-(N',N'-dimethylureido)-phenylacetic acid sec.-butylamide of melting point 170-171° C were obtained.

reactant | 3-amino-phenylacetic acid sec.-butylamide | 0.1 mol, 20.6 g | C(C)(CC)NC(CC1=CC(=CC=C1)N)=O | C12H18N2O
reactant | dimethylcarbamic acid chloride | 0.1 mol, 10.75 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3-(N',N'-dimethylureido)-phenylacetic acid sec.-butylamide | 17 g, 61.5% | C(C)(CC)NC(CC1=CC(=CC=C1)NC(=O)N(C)C)=O | C15H23N3O2
